US08735362B2
Step A: 2-Nitrilo-ethanesulfonic acid (4-methoxy-phenyl)-amid
To a solution of para-anisidine (1.95 g) in acetonitrile (25 ml) at 15° C. under argon atmosphere was added pyridine (1.25 g), then cyanomethanesulfonyl chloride (2 g) and the reaction mixture was stirred at room temperature for 1 hour. The reaction mixture was poured into 50 ml water and the pH was made basic by addition of 1N aqueous sodium hydroxide. The aqueous layer was extracted with ethyl acetate, the combined organic layers were dried over sodium sulfate, then concentrated in vacuo. Column chromatography (ethyl acetate/cyclohexane 1:1) afforded the title product as an orange solid (590 mg). 1HNMR (CDCl3, 400 MHz): 7.30 (d, 2H), 6.95 (d, 2H), 6.70 (m, 1H), 3.95 (s, 2H), 3.85 (s, 3H).

reactant | para-anisidine | 1.95 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | pyridine | 1.25 g | N1=CC=CC=C1 | C5H5N
reactant | cyanomethanesulfonyl chloride | 2 g | C(#N)CS(=O)(=O)Cl | C2H2ClNO2S
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | water | 50 ml | O | H2O
product | 2-Nitrilo-ethanesulfonic acid (4-methoxy-phenyl)-amid | 590 mg | COC1=CC=C(C=C1)NS(=O)(=O)CC#N | C9H10N2O3S
